US04851526
1-Cyclohexylmethyl-3-azetidinemethanol
To 100 mL of carbon tetrachloride add 19.2 g (0.1 mol) of 2-[(cyclohexylmethylamino)methyl]-1,3-propanediol, 26.2 g (0.1 mol) of triphenylphosphine, and 11 g (0.1 mol) of triethylamine. Monitor the reaction by thin-layer chromatography. Upon completion extract twice with 50 mL of 1N aqueous HCl. Add 1N NaOH to the aqueous portion until basic and extract twice with 100 mL of ether. Dry the organic phase over Na2SO4. Filter off the drying agent and evaporate the solvent in vacuo to obtain the title compound.

reactant | 2-[(cyclohexylmethylamino)methyl]-1,3-propanediol | 0.1 mol, 19.2 g | C1(CCCCC1)CNCC(CO)CO | C11H23NO2
reactant | triphenylphosphine | 0.1 mol, 26.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.1 mol, 11 g | C(C)N(CC)CC | C6H15N
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Cyclohexylmethyl-3-azetidinemethanol | C1(CCCCC1)CN1CC(C1)CO | C11H21NO
